US08859541B2
D3b) tert-butyl-N-[1-[[4-methyl-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate
A mixture of tert-butylN-[1-[[4-chloro-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate D3a (40 mg, 0.10 mmol), 2,4,6-trihydroxy-1,3,5,2,4,6-trioxatriborinane (36 μl, 0.26 mmol), Tetrakis(triphenylphosphine)palladium(0) (16.6 mg, 0.01 mmol), potassium carbonate (41.5 mg, 0.30 mmol), 1,2-dimethoxyethane (600 μl) and water (100 μl) is stirred for 2 day at 80° C. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 2 mg (5%). HPLC-MS: M+H=380; tR=2.18 min (*Method—2).

reactant | tert-butylN-[1-[[4-chloro-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(=O)NC1=NC(=CC(=C1)Cl)C#CC1=CC=CC=C1)C)=O | C21H22ClN3O3
reactant | 2,4,6-trihydroxy-1,3,5,2,4,6-trioxatriborinane | 0.26 mmol, 36 μl | OB1OB(OB(O1)O)O | B3H3O6
reactant | potassium carbonate | 0.30 mmol, 41.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dimethoxyethane | 600 μl | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 16.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 μl | O | H2O
product | tert-butyl-N-[1-[[4-methyl-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(=O)NC1=NC(=CC(=C1)C)C#CC1=CC=CC=C1)C)=O | C22H25N3O3
